US04898863
A mixture of 6-(N-cyclopentylmethylcarbamoyl)-3-formylindole (0.92 g), t-butyl 4-bromomethyl-3-methoxybenzoate (1.2 g), and potassium carbonate (0.7 g) in N,N-dimethylformamide (17 ml) was stirred for 48 hours under a nitrogen atmosphere. Water was added to give a precipitate which was collected by filtration and dried to yield t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-formylindol-1-ylmethyl]-3-methoxybenzoate (1.2 g, 71%) as an ivory powder; mp 134°-135°.

reactant | 6-(N-cyclopentylmethylcarbamoyl)-3-formylindole | 0.92 g | C1(CCCC1)CNC(=O)C1=CC=C2C(=CNC2=C1)C=O | C16H18N2O2
reactant | t-butyl 4-bromomethyl-3-methoxybenzoate | 1.2 g | BrCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC | C13H17BrO3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-formylindol-1-ylmethyl]-3-methoxybenzoate | 1.2 g, 71% | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=O | C29H34N2O5
